EE18BTECH11012.NET - OPAMP MODEL SINGLE POLE CLOSED LOOP RESPONSE 
* STEP INPUT
VS	1	0	AC	1	PWL(0US 0V   0.01US 1V)
*
R2	0	2	1000
R1	2	4	0.1
XOP	1 4 	4	OPAMP1	

.SUBCKT OPAMP1      1   2 5
* INPUT IMPEDANCE
RIN	1	2	100MEG
* DC GAIN=100K AND POLE1=10 Hz
G1      0       3  VALUE = { 1e-1*V(1,2)}
RP1     3      0   1e6
CP1     3      0   1.59e-8
* OUTPUT BUFFER AND RESISTANCE
EBUFFER	4 0	3 0	1
ROUT	4	5	10
.ENDS

* ANALYSIS
.AC 	DEC 	10 10 10MEG
.TRAN 	0.01US  20US

* VIEW RESULTS
.control
run
plot V(4)
wrdata ee18btech11012.dat V(4)
.endc 
.end
